US08975398B2
(R)-tert-butyl 3-(5-(1-isobutyl-1H-pyrazol-4-yl)thiophene-3-carboxamido)pyrrolidine-1-carboxylate
The title compound was prepared as described in Example 1A, substituting (R)-tert-butyl 3-aminopyrrolidine-1-carboxylate for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and 5-(1-isobutyl-1H-pyrazol-4-yl)thiophene-3-carboxylic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | 5-(1-isobutyl-1H-pyrazol-4-yl)thiophene-3-carboxylic acid | C(C(C)C)N1N=CC(=C1)C1=CC(=CS1)C(=O)O | C12H14N2O2S
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | (R)-tert-butyl 3-(5-(1-isobutyl-1H-pyrazol-4-yl)thiophene-3-carboxamido)pyrrolidine-1-carboxylate | C(C(C)C)N1N=CC(=C1)C1=CC(=CS1)C(=O)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C21H30N4O3S
